US05073559
Example 7 2-(2-Propoxyphenyl)-8-methylpurin-6-one
A mixture of 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one (1.56 g), anhydrous sodium acetate (114 g) and acetamidine hydrochloride (142 g) was heated in an oil bath at 150°-160° C. for 2 hours. The mixture was digested with ethanol (2 ml), cooled, filtered and the solid washed with ethanol. Recrystallisation from ethanol gave the title compound, 0.72 g, m.p. 264°-265° C.

reactant | 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one | 1.56 g | NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCCC | C13H16N4O2
reactant | sodium acetate | 114 g | C(C)(=O)[O-].[Na+]
reactant | acetamidine hydrochloride | 142 g | Cl.C(C)(=N)N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(2-Propoxyphenyl)-8-methylpurin-6-one | C(CC)OC1=C(C=CC=C1)C1=NC(C2=NC(=NC2=N1)C)=O | C15H14N4O2
